US06153605
Typically, tetrabromomethane (16.8 g; 50.6 mmol) is dissolved in dichloromethane (80 ml). Triphenylphosphine (26.5 g; 101.1 mmol) in solution in dichloromethane (40 ml) is added dropwise. The reaction mixture is cooled to -20° C. and the compound (S)-2-[(1R,3aR,4S,7aR)-4-(tert-Butyl-dimethyl-silanyloxy)-7a-methyl-octahydro-inden-1-yl]-propan-1-al (J. Org Chem: 1992, 57, 3173 ) in solution in dichloromethane (30 ml) is added dropwise. The reaction mixture is allowed to reach room temperature and is then poured on ice. The mixture is extracted twice with ethyl-acetate (250 ml); the organic phase is washed twice with brine (100 ml), dried over sodium sulfate. After evaporation of the solvents and flash-chromatography over silica gel (hexanes/ethyl acetate 98:2) the compound (1R,3aR,4S,7aR)-4-(tert-Butyl-dimethyl-silanyloxy)-1-[(S)-3,3-dibromo-1-methyl-allyl]-7a-methyl-octahydro-indene (8.94 g; Yield 81%) was obtained as a colorless oil.

reactant | tetrabromomethane | 50.6 mmol, 16.8 g | BrC(Br)(Br)Br | CBr4
reactant | Triphenylphosphine | 101.1 mmol, 26.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (S)-2-[(1R,3aR,4S,7aR)-4-(tert-Butyl-dimethyl-silanyloxy)-7a-methyl-octahydro-inden-1-yl]-propan-1-al | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CC[C@@H]([C@]2(CCC1)C)[C@@H](C=O)C)(C)C | C19H36O2Si
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (1R,3aR,4S,7aR)-4-(tert-Butyl-dimethyl-silanyloxy)-1-[(S)-3,3-dibromo-1-methyl-allyl]-7a-methyl-octahydro-indene | 8.94 g, Yield 81% | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CC[C@@H]([C@]2(CCC1)C)[C@@H](C=C(Br)Br)C)(C)C | C20H36Br2OSi
